US08044213B2
To a mixture of 0.078 g (0.15 mmole) of 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid ethyl ester (I.41f), 2 mL of tetrahydrofuran and 2 mL of water was added 0.034 g (1.49 mmole) of lithium hydroxide. The mixture was stirred at ambient temperature for 2 hours, then concentrated under reduced pressure and diluted with 5 mL of water. The pH was adjusted to ca. 6-7 by addition of 3M hydrochloric acid. The precipitate was collected by filtration to give 0.054 g of 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid (I.41 g) as a white solid.

reactant | 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid ethyl ester | 0.15 mmole, 0.078 g | C(C)OC(=O)C1=C(N=C(S1)N1C=NC2=C1C=C(C=C2)CCCCN2CCOCC2)C2=CC(=CC=C2)Cl | C27H29ClN4O3S
reactant | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
reactant | lithium hydroxide | 1.49 mmole, 0.034 g | [OH-].[Li+]
solvent | water | 2 mL | O | H2O
product | 4-(3-chloro-phenyl)-2-[6-(4-morpholin-4-yl-butyl)-benzoimidazol-1-yl]-thiazole-5-carboxylic acid | 0.054 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)O)N1C=NC2=C1C=C(C=C2)CCCCN2CCOCC2 | C25H25ClN4O3S
